US07300931B2
4-(4-bromo-3-fluorobenzyl)morpholine:
A 250 ml flask was charged with (4-bromo-3-fluorophenyl)(morpholino)methanone (4.569 g, 15.86 mmol) and dissolved in 16 mL of THF. Diphenylsilane (6.2 ml, 33.4 mmol) was added followed by carbonyltris(triphenylphosphine)rhodium(I)hydride (100 mg, 0.109 mmol) and the reaction stirred at room temperature for 20 hours.

reactant | (4-bromo-3-fluorophenyl)(morpholino)methanone | 15.86 mmol, 4.569 g | BrC1=C(C=C(C=C1)C(=O)N1CCOCC1)F | C11H11BrFNO2
reactant | Diphenylsilane | 33.4 mmol, 6.2 ml | C1(=CC=CC=C1)[SiH2]C1=CC=CC=C1 | C12H12Si
solvent | THF | 16 mL | C1CCOC1 | C4H8O
catalyst | carbonyltris(triphenylphosphine)rhodium(I)hydride | 0.109 mmol, 100 mg | C=O.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Rh]
product | 4-(4-bromo-3-fluorobenzyl)morpholine | BrC1=C(C=C(CN2CCOCC2)C=C1)F | C11H13BrFNO
